2196-07-23 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.3
F - [**2196-7-22**] 07:32 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   . Acetaminophen 2. Aspirin 3. Atovaquone Suspension 4. Azithromycin 5.
   Docusate Sodium 6. Enoxaparin Sodium
   7. Metoprolol Tartrate 8. Multivitamins 9. Neutra-Phos 10. Pantoprazole
   11. Senna 12. Sodium Phosphate
   13. Warfarin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no shortness of breath, no pain
   Flowsheet Data as of  [**2196-7-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36.6
C (97.9
   HR: 76 (67 - 86) bpm
   BP: 122/48(66) {102/47(60) - 134/57(72)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    160 mL
                                                                    634 mL
   PO:
                                                                    120 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     40 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                  1,280 mL
   Urine:
                                                                    500 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -340 mL
                                                                   -646 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Gen: resting comfortably
   CV: rrr, sinus, nl s1/s2, [**2-12**] SES
   Pulm: cta b/l, decreased at bases
   Abd: +BS, soft, NT, ND
   Ext: no edema
   Labs / Radiology
   111 K/uL
   11.1 g/dL
   101 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.5 mEq/L
   9 mg/dL
   94 mEq/L
   126 mEq/L
   32.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2196-7-22**]  09:21 PM
                             [**2196-7-23**]  05:32 AM
   WBC
   6.2
   5.5
   Hct
   24.9
   32.7
   Plt
   129
   111
   Cr
   0.7
   0.8
   Glucose
   108
   101
   Other labs: PT / PTT / INR:13.1/25.6/1.1, ALT / AST:36/41, Alk Phos / T
   Bili:95/1.2, Differential-Neuts:70.5 %, Band:11.0 %, Lymph:24.4 %,
   Mono:4.3 %, Eos:0.4 %, Fibrinogen:778 mg/dL, Albumin:2.4 g/dL, LDH:263
   IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**7-22**]
   Microbiology: urine and blood ctx [**7-22**] pending
   Smear positive for parasites
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 BABESIOSIS
   Assessment and Plan: This is a  78 y/o with Raynoulds, no significant
   heart or lung history presents from [**First Name5 (NamePattern1) 608**] [**Last Name (NamePattern1) **] with intermittent
   fevers and fatigue for 3 weeks and parasite smear + for babesiosis by
   report and SOB
   .
   # Fevers, maliase: per report parasite smear at [**Hospital1 608**] positive for
   babesiosis. Fatigue, fevers, consistent with Babesiosis, as is recent
   tick exposure. New onset anemia and thrombocytopenia also consistent.
   Prolonged viral illness possible but becoming less likely given
   prolonged time cause.  ? infiltrate on CXR raising ? of new PNA in
   addition given presistent fevver, however on CXR more likely effusions
   with edema
   - repeat parasite smear
   - get smear report from [**Hospital1 608**]
   - Continue Atovoquone and Azithro for Babesiosis as apears clinically
   stable on arrival.
   - consider switch Abx to Clindamycin-quinine if clinically worsens
   - f/u Hemolytic, DIC labs
   - Trend CXR
   - given unlikely to have simutaneous lyme and Babesiosis and lyme
   serology negative to date d/c doxycycline
   - f/u [**7-18**] Lyme serology.
   -consult ID
   .
   #  Pulmonary edema: developed in setting of IVF and new onset PAF. Pt
   reports LE edema prior to diuresis. Likely [**2-8**] CHF given lung findings,
   elevated JVP, h/o valvulopathy, and new onset arrthymia. Diuresed well
   with lasix. COnfusing that BNP only 390. Clinical improvement may
   correlate with return to NSR. ARDS possible in babesiosis. however pt
   with other signs of CHF and pt with minimal oxygen requirement making
   ARDS unlikely. No blood transfusion making TROLLE unlikely
   - hold diuresis given decreased oxygen requirement
   - f/u final CXR read
   - nebs
   -echo today; possible  cards consult
   .
   #  Hyponatremia. Resolving with Na 126 today with fluid restrictions.
   Exam consistent with hypervolemic hyponatremia. Urine NA > 60,
   suggesting against CHF as etiology but difficult to inerperate in
   setting of recent diuresis. SIADH also possible in setting of possible
   lung infection.
   - Given downtrending in setting of diruesis hold lasix
   - fluid restrict
   - trend NA
   .
   # PAF: New onset Afib [**7-21**]. Now in NSR. Was on lovenox but d/ced.
   - ASA 81mg
   - lovenox [**Hospital1 7**] and start coumadin
   - trend INR
   - continue metopolol
   - hold dig for now, check level given combination of azithro and dig
   - given now resolved and in setting of infection, will stop
   anticoagulation
   .
   #  Anemia:  HCT of 24, down from baseline of 40. NO obvious GI bleed.
   Could be [**2-8**] hemolysis in setting of babesiosis.  LDH slightly elevated
   but tbili normal.
   - Trend hemolysis, DIC labs
   - Transfuse if < 21
   .
   # FEN: No IVF, replete electrolytes, regular diet, fluid restrict
   .
   # Prophylaxis: lovenox, PPI, bowel reg
   .
   # Access: peripherals
   .
   # Code: confirmed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-7-22**] 07:45 PM
   Prophylaxis:
   DVT: lovenox  bridge to coumadin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending above ; possible c/o later today if stable

2196-07-24 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2196-7-23**] 09:52 AM
 TRANSTHORACIC ECHO - At [**2196-7-23**] 12:00 PM
 FEVER - 102.3
F - [**2196-7-23**] 07:00 PM
   [**7-23**]
   - Per ID restarted doxycycline
   - Called out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2196-7-23**] 08:30 AM
   Atovaquone - [**2196-7-23**] 06:05 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-7-23**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-24**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.1
C (98.8
   HR: 82 (69 - 98) bpm
   BP: 132/56(74) {91/43(58) - 155/68(87)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,950 mL
                                                                    120 mL
   PO:
                                                                  1,290 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    660 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                  1,080 mL
   Urine:
                                                                  2,630 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   117 K/uL
   9.3 g/dL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   9 mg/dL
   96 mEq/L
   126 mEq/L
   27.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2196-7-22**]  09:21 PM
                             [**2196-7-23**]  05:32 AM
                             [**2196-7-23**]  04:15 PM
                             [**2196-7-24**]  02:36 AM
   WBC
   6.2
   5.5
   4.7
   Hct
   24.9
   32.7
   27.9
   Plt
   129
   111
   117
   Cr
   0.7
   0.8
   0.8
   0.7
   Glucose
   108
   101
   126
   104
   Other labs: PT / PTT / INR:14.7/27.3/1.3, ALT / AST:40/53, Alk Phos / T
   Bili:87/1.1, Differential-Neuts:70.5 %, Band:11.0 %, Lymph:24.4 %,
   Mono:4.3 %, Eos:0.4 %, Fibrinogen:778 mg/dL, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 BABESIOSIS
   This is a  78 y/o with Raynoulds, no significant heart or lung history
   presents from [**First Name5 (NamePattern1) 608**] [**Last Name (NamePattern1) **] with intermittent fevers and fatigue for
   3 weeks and parasite smear + for babesiosis by report and SOB
   # Fevers, maliase: per report parasite smear at [**Hospital1 608**] positive for
   babesiosis. Fatigue, fevers, consistent with Babesiosis, as is recent
   tick exposure. New onset anemia and thrombocytopenia also consistent.
   Prolonged viral illness possible but becoming less likely given
   prolonged time cause.  ? infiltrate on CXR raising ? of new PNA in
   addition given presistent fevver, however on CXR more likely effusions
   with edema
   - Continue Atovoquone and Azithro for Babesiosis as apears clinically
   stable on arrival.
   - consider switch Abx to Clindamycin-quinine if clinically worsens
   - f/u Hemolytic, DIC labs
   - Trend CXR
   - Per ID restarted doxycycline yesterday to cover for lyme.
   - F/U ID recs.
   - Change Tylenol to standing dose rather than PRN for better symptom
   management.
   #  Pulmonary edema: developed in setting of IVF and new onset PAF. Pt
   reports LE edema prior to diuresis. Likely [**2-8**] CHF given lung findings,
   elevated JVP, h/o valvulopathy, and new onset arrthymia. Diuresed well
   with lasix. Clinical improvement may correlate with return to NSR.
   ARDS possible in babesiosis. however pt with other signs of CHF and pt
   with minimal oxygen requirement making ARDS unlikely.
   - hold diuresis given decreased oxygen requirement
   - nebs PRN
   - echo yesterday showed moderate Aortic Regurg.
   #  Hyponatremia. Resolving with Na 126 today with fluid restrictions.
   Exam consistent with hypervolemic hyponatremia. Urine NA > 60,
   suggesting against CHF as etiology but difficult to inerperate in
   setting of recent diuresis. SIADH also possible in setting of possible
   lung infection.
   - Given downtrend in setting of diruesis hold lasix
   - Continue fluid restrict
   - trend NA
   # PAF: New onset Afib [**7-21**]. Now in NSR. Was on lovenox but d/ced.
   - ASA 81mg
   - trend INR
   - continue metopolol
   - hold dig for now, check level given combination of azithro and dig
   - given converted back to NSR and short duration in setting of
   infection, will stop anticoagulation
   #  Anemia:  HCT of 27, down from baseline of 40. NO obvious GI bleed.
   Could be [**2-8**] hemolysis in setting of babesiosis.  LDH slightly elevated
   but tbili normal.
   - Trend HCT
   - Transfuse if < 21
   ICU Care
   Nutrition: regular diet with fluid restriction
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-7-22**] 07:45 PM
   Prophylaxis:
   DVT: SCD
   Stress ulcer:  Protonix
   VAP:  n/a
   Comments:
   Communication: with Pt and Daughter.  Comments:
   [**Name2 (NI) 36**] status: Full code
   Disposition: Called Out

2196-07-24 09:13:00 Physician Attending Progress Note
Chief Complaint: fatigue, shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo female admitted with Babesiosis
   24 Hour Events:
 EKG - At [**2196-7-23**] 09:52 AM
 TRANSTHORACIC ECHO - At [**2196-7-23**] 12:00 PM
 FEVER - 102.3
F - [**2196-7-23**] 07:00 PM
   Restarted on doxycyline
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2196-7-23**] 08:30 AM
   Atovaquone - [**2196-7-23**] 06:05 PM
   Infusions:
   Other ICU medications:
   Other medications:
   metoprolol [**Hospital1 7**], protonix 40 mg daily, [**Last Name (un) 532**], MVI, colace, doxycycline
   100 mg Q12h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-7-24**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.1
C (98.8
   HR: 82 (69 - 98) bpm
   BP: 132/56(74) {91/43(58) - 155/68(87)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,950 mL
                                                                    120 mL
   PO:
                                                                  1,290 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    660 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                  1,080 mL
   Urine:
                                                                  2,630 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: rales at
   L>Right base
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   117 K/uL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   9 mg/dL
   96 mEq/L
   126 mEq/L
   27.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2196-7-22**]  09:21 PM
                             [**2196-7-23**]  05:32 AM
                             [**2196-7-23**]  04:15 PM
                             [**2196-7-24**]  02:36 AM
   WBC
   6.2
   5.5
   4.7
   Hct
   24.9
   32.7
   27.9
   Plt
   129
   111
   117
   Cr
   0.7
   0.8
   0.8
   0.7
   Glucose
   108
   101
   126
   104
   Other labs: PT / PTT / INR:14.7/27.3/1.3, ALT / AST:40/53, Alk Phos / T
   Bili:87/1.1, Differential-Neuts:70.5 %, Band:11.0 %, Lymph:24.4 %,
   Mono:4.3 %, Eos:0.4 %, Fibrinogen:778 mg/dL, Albumin:2.4 g/dL, LDH:254
   IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Ehrlich. titers pending
   Echo: mild to moderate [**Last Name (LF) **], [**First Name3 (LF) **] 60-70%
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 BABESIOSIS
   78 yo female with Raynaud
s admitted with babesiosis
   1. Babesiosis:
   On  atovaquone and azithromycin for babesiosis, on doxycycline due to
   high prevalence of co-existent tick borne illnesses
   Continue current abx, Ehrhlichia titers drawn and pending
   2. Pulmonary edema: appears cardiac in origin given improv
t with
   conversion to SR. No need for diuresis today.
   3. Afib- has remained in NSR since in the ICU. Continue metoprolol
   4. Hyponatremia: remains unchanged with fluid restriction, continue to
   trend Na
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-7-22**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Called out to floor
   Total time spent: